US05130301
An excess of para-toluenesulfonyl chloride is added to a solution of 1 g (0.0053 mol) of 5,6-dihydro -4H-pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine in 10 ml of pyridine, and the reaction mixture is then stirred at room temperature for one hour. The pyridine is then removed under reduced pressure and the oil residue obtained is ground in 100 ml of water. The emulsion formed is extracted with 3 times 100 ml of ethyl ether. The organic phases are separated after settling has taken place, combined, dried, washed with acidulated water, dried over magnesium sulfate and evaporated under vacuum. The solid residue is recrystallized. 0.4 g of 5-(p-tolylsulfonyl)-5,6-dihydro-4H -pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine is thereby obtained in the form of yellow crystals, melting point 165° C. (ethyl ether).

reactant | para-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 5,6-dihydro -4H-pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine | 0.0053 mol, 1 g | C1=CSC=2CNCC=3N(C21)C=CC3 | C10H10N2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | 5-(p-tolylsulfonyl)-5,6-dihydro-4H -pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine | 0.4 g, Yield: 22% | C1(=CC=C(C=C1)S(=O)(=O)N1CC=2N(C3=C(C1)SC=C3)C=CC2)C | C17H16N2O2S2
